US07776864B2
Step 3: 5-chloro-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine
34.5 g 5,7-dichloro-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine is dissolved in 500 ml dichloromethane. 500 ml brine, 250 ml ammonia solution 25% w/w and 34.0 g zinc powder are added and the mixture is stirred at room temperature for 1 h. The reaction mixture is filtrated over kieselgur and is washed with dichloromethane and water. The organic phase is separated and the water phase is extracted with dichloromethane. The combined dichloromethane phase is dried over Na2SO4 and the solvent is evaporated. The crude product is purified by chromatography on silica gel (dichloromethane/ethyl acetate) to yield the desired compound.

reactant | 5,7-dichloro-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | 34.5 g | ClC1=NC=2N(C(=C1C1=CC=CC=C1)Cl)N=C(N2)C | C12H8Cl2N4
reactant | ammonia | 250 ml | N | H3N
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | brine | 500 ml | [Cl-].[Na+].O
catalyst | zinc | 34.0 g | [Zn] | Zn
product | 5-chloro-2-methyl-6-phenyl[1,2,4]triazolo[1,5-a]pyrimidine | ClC1=NC=2N(C=C1C1=CC=CC=C1)N=C(N2)C | C12H9ClN4
